US08242157B2
To a solution of N-(1-methyl-1H-benzimidazol-2-yl)-benzenesulfonamide (100 mg, 0.35 mmol) in DMF (2 mL) was added 1-bromomethyl-3-trifluoromethyl-benzene (166.4 mg, 0.70 mmol) and potassium carbonate (48 mg). The resulting mixture was heated to 120° C. in a microwave reactor for 1 h. The resulting mixture was then diluted with EtOAc, washed with H2O and the organic layer was dried over Na2SO4, filtered, and concentrated in vacuo. The resultant residue was purified by flash column chromatography (SiO2), eluting with a hexanes-EtOAc gradient to yield N-(1-methyl-1H-benzimidazol-2-yl)-N-(3-trifluoromethyl-benzyl)-benzenesulfonamide (1st compound to elute off the column) MS 446 (M+1)+

reactant | N-(1-methyl-1H-benzimidazol-2-yl)-benzenesulfonamide | 0.35 mmol, 100 mg | CN1C(=NC2=C1C=CC=C2)NS(=O)(=O)C2=CC=CC=C2 | C14H13N3O2S
reactant | 1-bromomethyl-3-trifluoromethyl-benzene | 0.70 mmol, 166.4 mg | BrCC1=CC(=CC=C1)C(F)(F)F | C8H6BrF3
reactant | potassium carbonate | 48 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(1-methyl-1H-benzimidazol-2-yl)-N-(3-trifluoromethyl-benzyl)-benzenesulfonamide | CN1C(=NC2=C1C=CC=C2)N(S(=O)(=O)C2=CC=CC=C2)CC2=CC(=CC=C2)C(F)(F)F | C22H18F3N3O2S
